US07981874B2
N-[2-Amino-5-(2-thienyl)phenyl]-4-[(3-methyl-3-oxido-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undec-9-yl)carbonyl]benzamide.
4-({[2-[(tert-Butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)-benzoic acid (150 mg, 0.34 mmol), 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride (99 mg, 0.41 mmol), EDC (131 mg, 0.68 mmol), HOBT (105 mg, 0.68 mmol), and DIEA (119 μL, 0.68 mmol) were combined in DMF (4 mL) and stirred at room temperature for 18 h. The solution was diluted with saturated NaHCO3 and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated. Purification of the crude by flash chromatography (0-10% MeOH/CH2Cl2) afforded the desired product as a yellow solid. The solid was dissolved in a mixture of CH2Cl2 (4 mL) and TFA (1 mL) and stirred at room temperature for 2 h. The solution was diluted with 1,2-DCE and evaporated. The crude was taken up in EtOAc, washed with saturated NaHCO3 and brine, dried (MgSO4), and evaporated. The residue was dissolved in a minimum amount of MeOH, diluted with EtOAc, concentrated to approximately half-volume, and filtered to isolate the desired product as a colorless solid. 1H NMR (DMSO-d6, 600 MHz) δ 9.80 (s, 1H), 8.04 (d, J=7.3 Hz, 2H), 7.50 (d, J=6.4 Hz, 2H), 7.45 (s, 1H), 7.33 (d, J=4.9 Hz, 1H), 7.28 (d, J=8.1 Hz, 1H), 7.22 (bs, 1H), 7.03 (t, J=3.9 Hz, 1H), 6.79 (d, J=8.3 Hz, 1H), 5.17 (s, 2H), 4.29-4.09 (m, 4H), 3.72-3.56 (m, 2H), 3.39-3.23 (m, 2H), 1.77-1.60 (m, 2H), 1.58-1.51 (m, 3H), 1.51-1.36 (m, 2H). MS: cal'd 526 (MH+), exp 526 (MH+).

reactant | 4-({[2-[(tert-Butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)-benzoic acid | 0.34 mmol, 150 mg | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C(=O)O)C=C1 | C23H22N2O5S
reactant | 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride | 0.41 mmol, 99 mg | Cl.CP1(OCC2(CO1)CCNCC2)=O
reactant | EDC | 0.68 mmol, 131 mg
reactant | HOBT | 0.68 mmol, 105 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.68 mmol, 119 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-[2-Amino-5-(2-thienyl)phenyl]-4-[(3-methyl-3-oxido-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undec-9-yl)carbonyl]benzamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)C(=O)N1CCC2(COP(OC2)(=O)C)CC1)=O | C26H28N3O5PS
